US07790895B2
To a solution of 4-benzoyl-pyridine-3-carbaldehyde (97 mg, ol) in THF (5 mL) at −78° C. was added 1.0M phenylmagnesium bromide in THF (0.46 mL) and the reaction mixture stirred for 15 min. The reaction mixture was then quenched with aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by preparation TLC of silica gel with 10% methanol in dichloromethane to yield [3-(hydroxy-phenyl-methyl)-pyridin-4-yl]-phenyl-methanone as white crystals.

reactant | 4-benzoyl-pyridine-3-carbaldehyde | 97 mg | C(C1=CC=CC=C1)(=O)C1=C(C=NC=C1)C=O | C13H9NO2
reactant | phenylmagnesium bromide | 1.0M | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.46 mL | C1CCOC1 | C4H8O
product | [3-(hydroxy-phenyl-methyl)-pyridin-4-yl]-phenyl-methanone | OC(C=1C=NC=CC1C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H15NO2
